US07855194B2
Step 2: 4-(6-Chloro-4-morpholin-4-yl-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2,6-dichloro-4-morpholin-4-yl-quinazoline (0.9 g, 3.17 mmol, 1.0 equiv) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (1.27 g, 6.33 mmol, 2.0 equiv; commercially available) in anhydrous NMP (8 mL) and triethylamine (2 mL) was heated by microwave irradiation to 170° C. for 1 h. The organic phase was concentrated under reduced pressure and the residue extracted with dichloromethane (3×50 mL) from a sat. solution of sodium bicarbonate (100 mL). The combined organic phases were dried over MgSO4 and the product purified by column chromatography on silica eluting with a gradient of toluene/ethyl acetate (4:1→2:1) providing 0.6 g (42%) of the title compound. MS (ISP): 448.3 [M+H]+.

reactant | 2,6-dichloro-4-morpholin-4-yl-quinazoline | 3.17 mmol, 0.9 g, 1.0 equiv | ClC1=NC2=CC=C(C=C2C(=N1)N1CCOCC1)Cl | C12H11Cl2N3O
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | NMP | 8 mL | CN1CCCC1=O | C5H9NO
product | 4-(6-Chloro-4-morpholin-4-yl-quinazolin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.6 g, 42% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC=C(C=C2C(=N1)N1CCOCC1)Cl | C22H30ClN5O3
